US07687503B2
7.4. 2-(ethyloxy)-2-oxoethyl 4-(6-bromo-3-pyridyl)-1-piperazinecarboxylate
The process is performed as described in Example 1 (step 1.2.). Starting with 3.57 g (14.76 mmol) of 1-(6-bromo-3-pyridyl)piperazine, obtained in step 7.3., and 3.97 g (17.71 mmol) of ethyl [(phenyloxycarbonyl)oxy]acetate, prepared in step 1.1. of Example 1, and after chromatography on silica gel, eluting with a 99/1 and then 98/2 mixture of dichloromethane and methanol, 3.75 g of product are obtained in the form of a yellow oil that crystallizes at room temperature.

reactant | 1-(6-bromo-3-pyridyl)piperazine | 14.76 mmol, 3.57 g | BrC1=CC=C(C=N1)N1CCNCC1 | C9H12BrN3
reactant | ethyl [(phenyloxycarbonyl)oxy]acetate | 17.71 mmol, 3.97 g | C1(=CC=CC=C1)OC(=O)OCC(=O)OCC | C11H12O5
product | 2-(ethyloxy)-2-oxoethyl 4-(6-bromo-3-pyridyl)-1-piperazinecarboxylate | BrC1=CC=C(C=N1)N1CCN(CC1)C(=O)OCC(=O)OCC | C14H18BrN3O4
